US08937071B2
To a mixture of (4-amino-2-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone (20 g, 66.4 mmol) in THF (500 mL) was added BH3DMS (19.91 mL, 199 mmol) dropwise. Then the mixture was stirred at 80° C. for 4 h. The mixture was quenched by adding MeOH and then concentrated. The residue was purified by silica column chromatography on silica gel (PE:EA=2:1, Rf=0.35) to give a white solid of 4-(4-ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine (14 g, 46.0 mmol, 69.4% yield): 1H NMR (400 MHz, CDCl3) δ: 7.48 (d, J=8.4 Hz, 1H), 6.91 (d, J=2.8 Hz, 1H), 6.79 (dd, J=2.4, 8.4 Hz, 1H), 3.76 (s, 2H), 3.53 (s, 2H), 2.45-2.39 (m, 8H), 1.08 (t, J=7.2 Hz, 3H); ES-LCMS m/z 288 (M+H).

reactant | (4-amino-2-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone | 66.4 mmol, 20 g | NC1=CC(=C(C=C1)C(=O)N1CCN(CC1)CC)C(F)(F)F | C14H18F3N3O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-(4-ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | 46.0 mmol, 14 g, 69.4% yield | C(C)N1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C14H20F3N3
